US05321026
A 3N solution (3 cc) of hydrochloric acid in isopropyl ether is added dropwise in the course of 5 minutes to a solution of N-(2-methylbenzyl)-10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide, L series (3.2 g), in ethyl acetate (25 cc). The solution is concentrated to dryness at 50° C. under reduced pressure (30 mm Hg; 4 kPa) to give a solid, which is taken up in isopropyl ether (20 cc). It is then drained washed with isopropyl ether (3×5 cc) and dried under reduced pressure (5 mm Hg; 0.7 kPa) at 40° C. to give N-(2-methylbenzyl)-10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide hydrochloride, L series (2.4 g), in the form of a yellow solid, m.p. approximately 125° C.

reactant | hydrochloric acid | Cl | ClH
reactant | N-(2-methylbenzyl)-10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide | CC1=C(CNC(=O)C2=CC=3N(C4=CC=CC=C4SC3C=C2)C(CN2CCCC2)C)C=CC=C1 | C28H31N3OS
solvent | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | ethyl acetate | 25 cc | C(C)(=O)OCC | C4H8O2
solvent | isopropyl ether | 20 cc | C(C)(C)OC(C)C | C6H14O
product | N-(2-methylbenzyl)-10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide hydrochloride | Cl.CC1=C(CNC(=O)C2=CC=3N(C4=CC=CC=C4SC3C=C2)C(CN2CCCC2)C)C=CC=C1 | InChI=1S/C28H31N3OS.ClH/c1-20-9-3-4-10-23(20)18-29-28(32)22-13-14-27-25(17-22)31(21(2)19-30-15-7-8-16-30)24-11-5-6-12-26(24)33-27;/h3-6,9-14,17,21H,7-8,15-16,18-19H2,1-2H3,(H,29,32);1H
